US04070366
2,4-Dimethyl-3-acetyl-5-(2-amino-ethyl)-pyrrole
Aminoacetaldehyde dimethyl acetal (0.75 ml) was added to a stirred solution of 2,4-dimethyl-3-acetyl-pyrrole (0.548 g) in 10 ml of hydriodic acid and 2 ml of hypophosphorous acid. The solution was stirred for 4 hr. at 35° then evaporated in a shallow dish in a vacuum disiccator, finally at 0.1 mm, and the residue twice slurried and filtered with acetone. The clarified solution of the solid in water (5 ml) was made strongly alkaline with KOH, saturated with potassium carbonate, and extracted repeatedly with ether. The ether solution (125 ml) was concentrated, adding n-pentane toward the end, to precipitate the product (29%) as pale yellow prisms, m.p. 106.5°-107.5°. Anal. Calc. for C10H16N2O: C, 66.63; H, 8.95; N, 15.54; neut. equiv. 180. Found: C, 66.51; H, 8.89; N, 15.62; neut. equiv. 182.

reactant | Aminoacetaldehyde dimethyl acetal | 0.75 ml | COC(CN)OC | C4H11NO2
reactant | 2,4-dimethyl-3-acetyl-pyrrole | 0.548 g | CC=1NC=C(C1C(C)=O)C | C8H11NO
solvent | hydriodic acid | 10 ml | I | HI
solvent | hypophosphorous acid | 2 ml | [PH2](=O)O | H3O2P
product | 2,4-Dimethyl-3-acetyl-5-(2-amino-ethyl)-pyrrole | CC=1NC(=C(C1C(C)=O)C)CCN | C10H16N2O
